US07608603B2
A mixture of (S)-3-methyl-2-methylamino-butyric acid (S)-2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(3-trimethylsilanyl-propoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester (15 mg, 0.0197 mmol), HCl (1 mL of 5N aqueous solution) and dioxane (1 mL) was heated to 80° C. for 30 minutes and then cooled to room temperature. The reaction mixture was made mildly basic by addition of saturated aqueous sodium bicarbonate solution, and the resulting precipitate was filtered, washed with water and dried under vacuum to afford 7 mg of 2-amino-3-methyl-butyric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester.

reactant | (S)-3-methyl-2-methylamino-butyric acid (S)-2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(3-trimethylsilanyl-propoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester | 0.0197 mmol, 15 mg | ClC1=C(C=CC=C1)C1=NN(C2=NC(=NC(=C21)NC[C@H](C)OC([C@H](C(C)C)NC)=O)OC2=C(C=C(C=C2)F)F)OCCC[Si](C)(C)C | C32H41ClF2N6O4Si
reactant | HCl | 5N, 1 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-amino-3-methyl-butyric acid 2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester | 7 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NCC(C)OC(C(C(C)C)N)=O)OC2=C(C=C(C=C2)F)F | C25H25ClF2N6O3
